US05204473
1-methoxy-4-n-butylamino-2,2,6,6-tetramethylpiperidine
A mixture of 10.1 g (54.5 mmol) of 1-methoxy-2,2,6,6-tetramethylpiperidin-4-one, 27.9 g (382 mmol) of n-butyl amine, 100 ml of methanol, and 1.0 g of 5% platinum on carbon is hydrogenated (50 psi, 25° C.) for 5 hours. The catalyst is removed by filtration. Evaporation of the filtrate gives an oil which is purified by fractional distillation to afford 10.6 g (80% yield) of the title compound, a colorless oil, b.p. 93°-100° C. (0.25 mm).

reactant | 1-methoxy-2,2,6,6-tetramethylpiperidin-4-one | 54.5 mmol, 10.1 g | CON1C(CC(CC1(C)C)=O)(C)C | C10H19NO2
reactant | n-butyl amine | 382 mmol, 27.9 g | C(CCC)N | C4H11N
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
solvent | methanol | 100 ml | CO | CH4O
product | 1-methoxy-4-n-butylamino-2,2,6,6-tetramethylpiperidine | 10.6 g, 80% yield | CON1C(CC(CC1(C)C)NCCCC)(C)C | C14H30N2O
